US04735948
A solution was prepared by heating 6.0 parts of 3-cyano-2(1H)naphthyridinone in 150 ml of dimethylformamide. There was then added 1.9 g of ammonium chloride and 2.3 g of sodium azide and the resulting solution was heated at 120° C. for 84 hours. The mixture was then poured into 500 ml of water and acidified to pH 2 with concentrated hydrochloric acid. The light yellow precipitate which formed was separated by filtration, washed with water and dried to give 3-(1H-tetrazol-5-yl)-2(1H)-naphthyridinone (1/3 hydrochloride) melting at greater than 300° C.

reactant | 3-cyano-2(1H)naphthyridinone | C(#N)C=1C(NC2=NC=CC=C2C1)=O | C9H5N3O
reactant | ammonium chloride | 1.9 g | [Cl-].[NH4+]
reactant | sodium azide | 2.3 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 3-(1H-tetrazol-5-yl)-2(1H)-naphthyridinone | N1N=NN=C1C=1C(NC2=NC=CC=C2C1)=O | C9H6N6O
